US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (30 ml), 3-nitroaniline (414 mg, 3.0 mmol) was added during 20 minutes, while maintaining the temperature of the reaction mixture at 34-36° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 35° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 47:3) gave 420 mg of 3-allylnitrobenzene as a light yellow oil containing 36% of 3-bromonitrobenzene. This corresponds to 50% yield of 3-allylnitrobenzene. 1H NMR (CDCl3, 400 MHz) δ 8.10-8.08, (m, 1H), 8.08-8.05, (m, 1H), 7.56-7.51, (m, 1H), 7.50-7.44, (m, 1H), 6.02-5.91, (m, 1H), 5.20-5.10, (m, 2H), 3.50, (d, 2H, J=6.7 Hz); 13C NMR (CDCl3, 100 MHz) δ 148.8, 142.5, 136.1, 135.3, 129.7, 123.9, 121.8, 117.8, 40.1.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 3-nitroaniline | 3.0 mmol, 414 mg | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 30 ml | CC#N | C2H3N
product | 3-allylnitrobenzene | 420 mg | C(C=C)C=1C=C(C=CC1)[N+](=O)[O-] | C9H9NO2
